US07504419B2
A solution of trans-benzyl 4-(2,3-dimethylphenoxy)-3-hydroxypiperidine-1-carboxylate (3.5 g, 9.8 mmol) in methanol (50 ml) was added to 5% palladium on charcoal (350 mg) under an atmosphere of nitrogen. The vessel was placed under an atmosphere of hydrogen and stirred vigorously until hydrogen uptake ceased. The resulting suspension was filtered over a short pad of celite (pre-washed with methanol) and the pad washed with a further portion of methanol (100 ml). Concentration of the methanolic solution in vacuo gave a yellow oil. Dilution with diethyl ether (100 ml) yielded trans-4-(2,3-dimethylphenoxy)-3-hydroxypiperidine as a white solid (1.01 g, 50%).

reactant | trans-benzyl 4-(2,3-dimethylphenoxy)-3-hydroxypiperidine-1-carboxylate | 9.8 mmol, 3.5 g | CC1=C(O[C@H]2[C@@H](CN(CC2)C(=O)OCC2=CC=CC=C2)O)C=CC=C1C | C21H25NO4
reactant | hydrogen | [H][H] | H2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 350 mg | [Pd] | Pd
product | trans-4-(2,3-dimethylphenoxy)-3-hydroxypiperidine | 1.01 g, 50% | CC1=C(O[C@H]2[C@@H](CNCC2)O)C=CC=C1C | C13H19NO2
